US05820849
a) 2-Bromopropionyl-β-alanine-benzyl ester
53.65 g (313 mmol) of 2-bromopropionic acid chloride is added in drops at 0°C. to 100 g (285 mmol) of β-alanine-benzyl ester-p-toluenesulfonic acid salt and 31.67 g (313 mmol) of triethylamine in 400 ml of methylene chloride. The temperature is not allowed to exceed 5° C. After addition is completed, it is stirred for 1 hour at 0° C., then for 2 hours at room temperature. 500 ml of ice water is added, and the water phase is set at pH 2 with 10% aqueous hydrochloric acid. The organic phase is separated, washed once each with 300 ml of 5% aqueous hydrochloric acid, 300 ml of 5% aqueous soda solution and 400 ml of water. The organic phase is dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue recrystallizes from diisopropyl ether.

reactant | 2-bromopropionic acid chloride | 313 mmol, 53.65 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | β-alanine-benzyl ester-p-toluenesulfonic acid salt | 285 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CCN)=O
reactant | triethylamine | 313 mmol, 31.67 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Bromopropionyl-β-alanine-benzyl ester | C(C1=CC=CC=C1)OC(CCNC(C(C)Br)=O)=O | C13H16BrNO3
